US04745059
0.5% of aspartic acid.
Additionally, the strains were inoculated into 100 ml of a similar medium containing glycine instead of the aspartic acid. The cultures were inoculated at 30° C. on a shaking machine for 5 days. Samples were taken after 3 and 5 days. 7 strains from the cultures tested converted phenylpyruvate into phenylalanine in a yield of 30% to 60%, and these were therefore suitable for further adaptation.

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | phenylpyruvate | C1(=CC=CC=C1)CC(C(=O)[O-])=O
reactant | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | aspartic acid | yield of 30% to 60% | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
